### PR TITLE
Port Section4.lean to lean4

### PR DESCRIPTION
**Pull request by gdahia**
This PR ports Section4.lean to lean4. The code modifications were made essentially by GPT 5.5 with high effort through codex, with minor formatting changes done by MiMo V3 Free via Opencode.

### CODE REVIEW

File: ExponentialRamsey/Section4.lean [hunk 1]
```diff
@@ -43,21 +42,20 @@ theorem Convex.union {s t : Set ℝ} (hs : Convex ℝ s) (ht : Convex ℝ t) (hs
   obtain ⟨a, has, hat⟩ := hst
   rw [convex_iff_ordConnected, Set.ordConnected_iff_uIcc_subset]
   rintro x (hx | hx) y (hy | hy)
-  · exact (hs.ord_connected.uIcc_subset hx hy).trans (Set.subset_union_left _ _)
+  · exact ((Convex.ordConnected hs).uIcc_subset hx hy).trans Set.subset_union_left
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]: I think `hs.ordConnected` should work here and below?

File: ExponentialRamsey/Section4.lean [hunk 2]
```diff
@@ -3,18 +3,17 @@ Copyright (c) 2023 Bhavik Mehta. All rights reserved.
...
+import ExponentialRamsey.Basic
+import ExponentialRamsey.Prereq.Constructive
+import Mathlib.Algebra.Order.Floor.Semifield
 
 /-!
 # Section 4
 -/
 
-
 theorem ConvexOn.hMul {f g : ℝ → ℝ} {s : Set ℝ} (hf : ConvexOn ℝ s f) (hg : ConvexOn ℝ s g)
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean:14]: this one might now be provable from mathlib [ConvexOn.mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/Mul.html#ConvexOn.mul), though I haven't confirmed

File: ExponentialRamsey/Section4.lean [hunk 3]
```diff
@@ -82,76 +80,76 @@ theorem ConvexOn.congr' {s : Set ℝ} {f g : ℝ → ℝ} (hf : ConvexOn ℝ s f
...
+    intro x hx
     refine' descFactorial_nonneg (hx.trans' _)
     simp
 
 theorem descFactorial_convex :
     ∀ k : ℕ, ConvexOn ℝ (Set.Ici ((k : ℝ) - 1)) fun x => descFactorial x k
   | 0 => convexOn_const 1 (convex_Ici _)
   | k + 1 => by
-    rw [Nat.cast_add_one, add_sub_cancel]
+    rw [show ((k + 1 : ℕ) : ℝ) - 1 = k by norm_num]
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]: did the old one not work? I'd hope `rw [Nat.cast_add_one, <something>]` should work here

File: ExponentialRamsey/Section4.lean [hunk 4]
```diff
@@ -82,76 +80,76 @@ theorem ConvexOn.congr' {s : Set ℝ} {f g : ℝ → ℝ} (hf : ConvexOn ℝ s f
...
+    (hf' : MonotoneOn f (Set.Ici k)) (hk : ∀ x < k, f x = f k) : ConvexOn ℝ Set.univ f := by
   have : f = f ∘ max k := by
     ext x
     rw [Function.comp_apply]
-    cases lt_or_le x k
-    · rw [max_eq_left h.le, hk _ h]
-    · rw [max_eq_right h]
+    cases lt_or_ge x k with
+    | inl h => rw [max_eq_left h.le, hk _ h]
+    | inr h => rw [max_eq_right h]
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]: `grind`, maybe?

File: ExponentialRamsey/Section4.lean [hunk 5]
```diff
@@ -384,121 +380,118 @@ theorem four_one_part_one [Fintype V] (μ : ℝ) (l k : ℕ) (C : BookConfig χ)
...
-  rw [card_map, hU'']
+  have : ramseyNumber ![k, ⌈(l : ℝ) ^ (2 / 3 : ℝ)⌉₊] ≤ W.card := hC
+  rw [← Fintype.card_coe W, ramseyNumber_le_iff, isRamseyValid_iff_eq] at this
+  obtain ⟨U, hU⟩ := this (χ.pullback (Function.Embedding.subtype _))
+  rw [Fin.exists_fin_two] at hU
+  replace hU := hU.resolve_left (by
+    rintro ⟨hU', hU''⟩
+    refine' hR ⟨U.map (Function.Embedding.subtype _), hU'.map, _⟩
+    rw [card_map, ← hU'']
+    simp)
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]: I don't love this nested `by`, but let's leave a TODO for this for now

File: ExponentialRamsey/Section4.lean [hunk 6]
```diff
@@ -384,121 +380,118 @@ theorem four_one_part_one [Fintype V] (μ : ℝ) (l k : ℕ) (C : BookConfig χ)
...
-  refine' this.trans_eq' _
+  convert this using 1
   · rw [nsmul_eq_mul, mul_comm]
+  · rw [Nat.cast_sum]
   rw [hU]
   positivity
 
 -- (10)
-theorem four_one_part_three (μ : ℝ) {k l : ℕ} {C : BookConfig χ} {U : Finset V} (hμ : 0 ≤ μ)
+omit [DecidableEq V] in theorem four_one_part_three (μ : ℝ) {k l : ℕ} {C : BookConfig χ} {U : Finset V} (hμ : 0 ≤ μ)
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]:
```suggestion
omit [DecidableEq V] in 
theorem four_one_part_three (μ : ℝ) {k l : ℕ} {C : BookConfig χ} {U : Finset V} (hμ : 0 ≤ μ)
```

File: ExponentialRamsey/Section4.lean [hunk 7]
```diff
@@ -543,144 +533,137 @@ theorem four_one_part_four (hμ₀ : 0 < μ₀) :
...
+      myGeneralizedBinomial (σ * ↑m) b * (X \ U).card := by
   refine' (mul_le_mul_of_nonneg_right (four_two_left hσ hσ₀ hσ₁) (Nat.cast_nonneg _)).trans' _
   have : 4 * m ≤ X.card := by
     refine' hX.trans' _
-    refine' (ramsey_number.mono_two hk le_rfl).trans' _
-    rw [ramsey_number_pair_swap]
-    refine' (mul_sub_two_le_ramsey_number hm).trans_eq' _
+    refine' (ramseyNumber.mono_two hk le_rfl).trans' _
+    rw [ramseyNumber_pair_swap]
+    refine' (hMul_sub_two_le_ramseyNumber hm).trans_eq' _
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]: this one should be called `mul_sub_two_le_ramseyNumber`, not `hMul`. I'm not sure if this is happening because of this file or something else, but I think `hMul` should never appear as a name in this repo...

File: ExponentialRamsey/Section4.lean [hunk 8]
```diff
@@ -543,144 +533,137 @@ theorem four_one_part_four (hμ₀ : 0 < μ₀) :
...
       μ ^ b * X.card / 2 * m.choose b ≤
-        ∑ S in powersetCard b U, ((commonBlues χ S ∩ (X \ U)).card : ℝ)) :
-    ∃ (S : _) (_ : S ⊆ U), S.card = b ∧ μ ^ b * X.card / 2 ≤ (commonBlues χ S ∩ (X \ U)).card :=
-  by
-  have : (powerset_len b U).Nonempty :=
-    by
-    apply powerset_len_nonempty
-    rwa [hU]
+        ∑ S ∈ powersetCard b U, ((commonBlues χ S ∩ (X \ U)).card : ℝ)) :
+    ∃ (S : _) (_ : S ⊆ U), S.card = b ∧ μ ^ b * X.card / 2 ≤ (commonBlues χ S ∩ (X \ U)).card := by
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]:
```suggestion
    ∃ S ⊆ U, S.card = b ∧ μ ^ b * X.card / 2 ≤ (commonBlues χ S ∩ (X \ U)).card := by
```
if this works, then the mathport comment can go as well. if there are other mathport comments like that one, then a fix like this is likely applicable

**Review by b-mehta — COMMENTED** [review]
I didn't check super thoroughly, but the ones I did check looked generally nice!

File: ExponentialRamsey/Section4.lean (hunk 1 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: Fixed, thanks.

File: ExponentialRamsey/Section4.lean (hunk 2 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean:14]: Confirmed, it now uses `ConvexOn.mul` from mathlib via `hf.mul hg hf'' hg'' (hf'.monovaryOn hg')`.

File: ExponentialRamsey/Section4.lean (hunk 3 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: Updated to use `Nat.cast_add_one, add_sub_cancel_right`.

File: ExponentialRamsey/Section4.lean (hunk 4 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: `grind` works perfectly here, updated.

File: ExponentialRamsey/Section4.lean (hunk 5 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: I've refactored this with rcases. I'm proposing this fix, but can revert to keep the TODO if you'd prefer.

File: ExponentialRamsey/Section4.lean (hunk 6 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: Fixed, moved `omit` to its own line.

File: ExponentialRamsey/Section4.lean (hunk 7 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: Renamed.

File: ExponentialRamsey/Section4.lean (hunk 8 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: Fixed, the simplified binder syntax works.

File: ExponentialRamsey/Section4.lean [hunk 9]
```diff
@@ -3,36 +3,22 @@ Copyright (c) 2023 Bhavik Mehta. All rights reserved.
...
-  suffices 0 ≤ a * (1 - a) * (g y - g x) * (f y - f x) by nlinarith only [this]
-  exact
-    mul_nonneg (mul_nonneg (by positivity) (sub_nonneg_of_le (hg' hx hy hxy.le)))
-      (sub_nonneg_of_le (hf' hx hy hxy.le))
+  hf.mul hg hf'' hg'' (hf'.monovaryOn hg')
 
 theorem MonotoneOn.hMul {s : Set ℝ} {f g : ℝ → ℝ} (hf : MonotoneOn f s) (hg : MonotoneOn g s)
     (hf' : ∀ x ∈ s, 0 ≤ f x) (hg' : ∀ x ∈ s, 0 ≤ g x) : MonotoneOn (fun x => f x * g x) s :=
-  fun x hx y hy hxy => mul_le_mul (hf hx hy hxy) (hg hx hy hxy) (hg' _ hx) (hf' _ hy)
+  fun _ hx _ hy hxy => mul_le_mul (hf hx hy hxy) (hg hx hy hxy) (hg' _ hx) (hf' _ hy)
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]: This one can use mathlib's `MonotoneOn.mul`.

File: ExponentialRamsey/Section4.lean [hunk 10]
```diff
@@ -82,76 +67,71 @@ theorem ConvexOn.congr' {s : Set ℝ} {f g : ℝ → ℝ} (hf : ConvexOn ℝ s f
...
-  | k + 1 => (x - k) * descFactorial k
+  | k + 1 => (x - (k : α)) * descFactorial x k
 
 theorem descFactorial_nonneg {x : ℝ} : ∀ {k : ℕ}, (k : ℝ) - 1 ≤ x → 0 ≤ descFactorial x k
   | 0, h => zero_le_one
   | k + 1, h =>
-    mul_nonneg (by rwa [Nat.cast_add_one, add_sub_cancel, ← sub_nonneg] at h )
+    mul_nonneg (by
+      have hk : ((k + 1 : ℕ) : ℝ) - 1 = k := by norm_num
+      linarith)
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]: `grind` here? or `(by rwa [Nat.cast_add_one, add_sub_cancel_right, ← sub_nonneg] at h)`

File: ExponentialRamsey/Section4.lean [hunk 11]
```diff
@@ -257,34 +229,42 @@ theorem b_le_m {m b : ℕ} {σ : ℝ} (hb : (b : ℝ) ≤ σ * m / 2) (hσ₀ :
...
+      inv_div, hdesc, ← descFactorial_cast_nat]
+    · field_simp [hfac, hmdesc]
+    · exact Nat.factorial_dvd_descFactorial _ _
+    · exact hfac
+  · have hlt : m < b := Nat.lt_of_not_ge hbm
+    have hchoose : m.choose b = 0 := Nat.choose_eq_zero_of_lt hlt
+    have hdescm : descFactorial (m : ℝ) b = 0 := by
+      rw [descFactorial_cast_nat, Nat.cast_eq_zero, Nat.descFactorial_eq_zero_iff_lt]
+      exact hlt
+    simp [myGeneralizedBinomial, smul_eq_mul, hchoose, hdescm]
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]: Hm, this proof got a lot longer - what happened here

File: ExponentialRamsey/Section4.lean (hunk 9 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: Done. I have also fixed my `improve` skill in opencode and commited those changes.

Comment (b-mehta) [reply ExponentialRamsey/Section4.lean]: After we get through more of these, we should try to improve the improve skill and publish it. Maybe I should put it in a private repo with you and we can use this project to iterate on it?

Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: Sounds good to me, but we can also put it in this repo if it makes iterating easier. Up to you.

File: ExponentialRamsey/Section4.lean (hunk 10 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: `grind` indeed works.

File: ExponentialRamsey/Section4.lean (hunk 11 above)
Comment (gdahia) [reply ExponentialRamsey/Section4.lean]: No idea, sorry. Replicated the `lean3` proof instead.

File: ExponentialRamsey/Section4.lean [hunk 12]
```diff
@@ -298,23 +261,23 @@ theorem four_two_aux' {m b : ℕ} {σ : ℝ} (hb : (b : ℝ) ≤ σ * m / 2) (h
...
-  by
+  have hmpos : (0 : ℝ) < m := this.trans_le' (Nat.cast_nonneg _)
+  have hden : 0 < (m : ℝ) - i := by rwa [sub_pos]
+  have hiσ : (i : ℝ) ≤ σ * m := by
+    have hib : (i : ℝ) ≤ b := by exact_mod_cast hi.le
+    nlinarith [hib, hb]
+  rw [div_le_iff₀ hden, one_div, inv_mul_eq_div, le_div_iff₀ hmpos]
+  linarith
+
+theorem exp_thing {x : ℝ} (hx₀ : 0 ≤ x) (hx₁ : x ≤ 1 / 2) : Real.exp (-2 * x) ≤ 1 - x := by
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean:302]: This one comes as a special case of `general_convex_thing` and `general_convex_thing'` proved in section 6. So it would be nice to move those here, and use it to prove this. (In particular `general_convex_thing'` with `(a := -1)` and `(x := -2 * x)`, combined with `Real.exp_neg_one_lt_half` should give a shorter proof.
(The history here is I made this one first, and then later realised the generalisation exists and is useful!)
Alternatively, you can leave the above as a TODO

Comment (gdahia) [reply ExponentialRamsey/Section4.lean:302]: Did it, lmk how it looks.

File: ExponentialRamsey/Section4.lean [hunk 13]
```diff
@@ -3,36 +3,22 @@ Copyright (c) 2023 Bhavik Mehta. All rights reserved.
...
-  suffices 0 ≤ a * (1 - a) * (g y - g x) * (f y - f x) by nlinarith only [this]
-  exact
-    mul_nonneg (mul_nonneg (by positivity) (sub_nonneg_of_le (hg' hx hy hxy.le)))
-      (sub_nonneg_of_le (hf' hx hy hxy.le))
+  hf.mul hg hf'' hg'' (hf'.monovaryOn hg')
 
 theorem MonotoneOn.hMul {s : Set ℝ} {f g : ℝ → ℝ} (hf : MonotoneOn f s) (hg : MonotoneOn g s)
     (hf' : ∀ x ∈ s, 0 ≤ f x) (hg' : ∀ x ∈ s, 0 ≤ g x) : MonotoneOn (fun x => f x * g x) s :=
-  fun x hx y hy hxy => mul_le_mul (hf hx hy hxy) (hg hx hy hxy) (hg' _ hx) (hf' _ hy)
+hf.mul hg hf' hg'
```
Comment (b-mehta) [inline ExponentialRamsey/Section4.lean]:
```suggestion
  hf.mul hg hf' hg'
```

**Review by b-mehta — COMMENTED** [review]
Thanks!
